US05409936
To a solution of 2-ethyl-4-(2-aminoethyl)-1-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methylimidazole (5.30 g) in tetrahydrofuran (40 ml) is added ethyl glyoxylate hydrate (1.67 g). The reaction mixture is stirred overnight at room temperature and then refluxed for two hours. The solvent is evaporated and the residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (5.90 g) as a yellow oil.

reactant | 2-ethyl-4-(2-aminoethyl)-1-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methylimidazole | 5.30 g | C(C)C=1N(C=C(N1)CCN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C25H31N3O2
reactant | ethyl glyoxylate hydrate | 1.67 g | O.C(C=O)(=O)OCC
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ethyl 2-ethyl-3-[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 5.90 g | C(C)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C29H35N3O4
